US07160902B2
a) N-Phenyl-succinamic acid methyl ester
Using the same reaction conditions as described in Example 20-step a except that methyl 4-chloro-3-oxobutyrate replaced methyl 3-chloro-3-oxopropionate, aniline (2.33 g, 25 mmol) was converted to the succinamide compound (5.18 g, 100%) after purification by chromatography over silica gel. 1H NMR (400 MHz, CDCl3) δ: 7.70 (s, 1H), 7.50 (d, 2H), 7.30 (t, 2H), 7.09 (m, 1H), 3.70 (s, 3H), 2.73–2.65 (m, 4H).

reactant | methyl 4-chloro-3-oxobutyrate | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | methyl 3-chloro-3-oxopropionate | ClC(CC(=O)OC)=O | C4H5ClO3
reactant | aniline | 25 mmol, 2.33 g | NC1=CC=CC=C1 | C6H7N
reactant | succinamide | 5.18 g | C(CCC(=O)N)(=O)N | C4H8N2O2
product | N-Phenyl-succinamic acid methyl ester | COC(CCC(=O)NC1=CC=CC=C1)=O | C11H13NO3
